US04886816
Ethyl 2-methyl-5-oxo-4-(2,2,3-trifluoro-1,4-benzodioxan-5-yl)-1,4,5,7-tetrahydrofuro[3,4-b]pyridine-3-carboxylate
10 mmol of diethyl 2-acetoxymethyl-1,4-dihydro-6-methyl-4-(2,2,3-trifluoro-1,4-benzodioxan-5-yl)-pyridine-3,5-dicarboxylate are heated in 25 mmol of ethanolic hydrochloric acid for 0.5 hour. The solvent is evaporated off and the residue is crystallized in a little ethanol with the addition of petroleum ether.

reactant | diethyl 2-acetoxymethyl-1,4-dihydro-6-methyl-4-(2,2,3-trifluoro-1,4-benzodioxan-5-yl)-pyridine-3,5-dicarboxylate | 10 mmol | C(C)(=O)OCC=1NC(=C(C(C1C(=O)OCC)C1=CC=CC=2OC(C(OC21)F)(F)F)C(=O)OCC)C | C23H24F3NO8
reactant | hydrochloric acid | 25 mmol | Cl | ClH
product | Ethyl 2-methyl-5-oxo-4-(2,2,3-trifluoro-1,4-benzodioxan-5-yl)-1,4,5,7-tetrahydrofuro[3,4-b]pyridine-3-carboxylate | CC1=C(C(C2=C(N1)COC2=O)C2=CC=CC=1OC(C(OC12)F)(F)F)C(=O)OCC | C19H16F3NO6
